US06503907B2
In analogy to example 7.2, 5-Bromo-3-methyl-indole-1-carboxylic acid tert-butyl ester and 4-pentynol were converted to yield 5-(5-Hydroxy-pent-1-ynyl)-3-methyl-indole-1-carboxylic acid tert-butyl ester as brown gum, MS: 313 (M).

reactant | 5-Bromo-3-methyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)Br)C | C14H16BrNO2
reactant | 4-pentynol | C(CCC#C)O | C5H8O
product | 5-(5-Hydroxy-pent-1-ynyl)-3-methyl-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)C#CCCCO)C | C19H23NO3
